US06124323
To a solution of 5-(2-benzyloxy-ethoxy)-2-nitro-benzoic acid (5.98 g, 18.85 mmol) in benzene (100 ml) and anhydrous tetrahydofuran (25 ml) was added triethyl amine (3.07 ml, 22 mmol) followed by diphenylphosphoryl azide (4.74 ml, 22 mmol). The reaction was stirred at room temp for 15 min, and then refluxed under nitrogen for 4 h. methanol (3 ml, 74.06 mmol) was added, and the reaction was refluxed for 18 h. The solvent was evaporated, and the oil chromatographed on silica gel eluting with 25% ethyl acetate/hexanes to give [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-carbamic acid methyl ester (6.12 g, 94%) as an oil. Analysis calculated for C17H18N2O6 : C, 58.96; H, 5.24; N, 8.09. Found: C, 58.94; H, 5.11; N, 7.87

reactant | 5-(2-benzyloxy-ethoxy)-2-nitro-benzoic acid | 18.85 mmol, 5.98 g | C(C1=CC=CC=C1)OCCOC=1C=CC(=C(C(=O)O)C1)[N+](=O)[O-] | C16H15NO6
reactant | triethyl amine | 22 mmol, 3.07 ml | C(C)N(CC)CC | C6H15N
reactant | diphenylphosphoryl azide | 22 mmol, 4.74 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | methanol | 74.06 mmol, 3 ml | CO | CH4O
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | tetrahydofuran | 25 ml | O1CCCC1 | C4H8O
product | [5-(2-benzyloxy-ethoxy)-2-nitro-phenyl]-carbamic acid methyl ester | 6.12 g, 94% | COC(NC1=C(C=CC(=C1)OCCOCC1=CC=CC=C1)[N+](=O)[O-])=O | C17H18N2O6
